US08445509B2
Production of ethyl 2-(2-methoxyphenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
In the same manner as in Reference Example 64 and using ethyl 2-(2-methoxyphenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (3.6 g, 14 mmol) and methyl trifluoromethanesulfonate (3 mL) as starting materials, the title compound (2.5 g, 66%) was obtained as a pale-yellow solid.

reactant | ethyl 2-(2-methoxyphenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 14 mmol, 3.6 g | COC1=C(C=CC=C1)N1NC=C(C1=O)C(=O)OCC | C13H14N2O4
reactant | methyl trifluoromethanesulfonate | 3 mL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
product | ethyl 2-(2-methoxyphenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 2.5 g, 66% | COC1=C(C=CC=C1)N1N(C=C(C1=O)C(=O)OCC)C | C14H16N2O4
